US04080451
3-ethoxycarbonyl-4-(p-methoxybenzyl)-1,2,4-triazole-5-thiol
A solution of p-methoxybenzyl isothiocyanate (8.95 g.) and the ethyl ester of oxalic acid monohydrazide (6.8 g.) in ethanol (50 ml.) was refluxed for a period of approximately 16 hours (overnight). The hot solution was then filtered, the filtrate evaporated in vacuo and the resulting oil triturated with dry diethyl ester. The solid product so obtained, viz., 3-ethoxycarbonyl-4-(p-methoxybenzyl)-1,2,4-triazole-5-thiol (yield, 7.2 g.) was then recrystallized from ethanol-water to yield 4.0 g. of pure material. The analytical sample melted at 142°-144° C. after a further recrystallization from ethyl acetate/petroleum ether (b.p. 60°-80° C.).

reactant | p-methoxybenzyl isothiocyanate | 8.95 g | COC1=CC=C(CN=C=S)C=C1 | C9H9NOS
reactant | oxalic acid monohydrazide | 6.8 g | C(C(=O)O)(=O)NN | C2H4N2O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 3-ethoxycarbonyl-4-(p-methoxybenzyl)-1,2,4-triazole-5-thiol | C(C)OC(=O)C1=NN=C(N1CC1=CC=C(C=C1)OC)S | C13H15N3O3S
